2120-12-24 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2120-12-24**] 04:38 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-24**] 03:49 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2120-12-24**] 05:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-24**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 100 (100 - 102) bpm
   BP: 126/83(93) {111/41(46) - 131/83(94)} mmHg
   RR: 19 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             700 mL
   PO:
             TF:
   IVF:
   200 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,010 mL
   Urine:
   210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN:cachetic, ashen, frail, cooperative, alert
   HEENT: nc/at, PERRLA, EOMI, anicteric.
   neck: +JVP to thyroid cartilage, supple no LAD
   chest: b/l ae, poor effort, decreased breath sounds RML/RLL, also LLL.
   No w/c
   heart:s1s2 rrr 2/6 systolic flow murmur, no r/g
   abd:cachetic, +bs, soft, NT, ND, well healed surgical scars.
   ext: thin, no c/c/e 2+pulses, warm
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   65 y.o male with h.o esophageal ca s/p surgerical
   intervention/chemo/radiation, HTN, HL who presents with SOB, fever,
   orthopnea.
   .
   #SOB/fever: Etiologies include infection such as PNA (pt with reported
   fever, CXR findings of bibasilar opacities, CTA large consolidation
   RLL, but normal WBC count) however, it appears that CXR findings may
   not be new. Bronchitis or viral pathology could also be a factor. Other
   possibilities include pulmonary edema [**3-2**] CHF as pt had elevated BNP.
   PE also a possibility given malignancy history, however pt with CTA at
   OSH.
   -bcx, urine cx, sputum cx
   -CXR in am, consider CT chest
   -abx for now-IV vanco/levo/flag
   -trend fever curve/wbc count.
   -echo in am
   -CT chest.
   .
   #s/p esophageal ca, s/p surgical intervention, chemo, radiation.
   C/B extensive weight loss.
   -notify primary oncologist
   -lexapro for appetite.
   -pain control prn
   .
   #Cardiology-HTN, s/p MI. Continue Asa, metoprolol per outpt regimen.
   -EKG
   -ROMI
   -echo in am.
   .
   #HL-continue statin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-24**] 03:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2120-12-25 06:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-12-24**] 10:36 AM
 BLOOD CULTURED - At [**2120-12-24**] 05:03 PM
   - Iron studies consistent with ACD
   - Onc recs: chk CEA (ordered for am) ,if thoracentesis-send cytology,
   ok to rpt Abd/pelvis CT, review outside CT
   - S+S- didn't try as most likely in this acute setting, would aspirate
   - Nutrition- want tube feeds or TPN. Can't drop NGT now as ? anatomy of
   esophagus. Ordered PPN in evening
   - CT torso from yesterday and CT chest from OSH reviewed with radiology
   (not yet finalized)- unchanged pleural effusion, new RLL and RML
   infiltrates. Also, difficult to track esophagus but still ?fistula or
   obstruction
   - Dr. [**Last Name (STitle) **] (CT [**Doctor First Name 458**]) who did esophagectomy to come eval esophagus in
   am. Per CT [**Doctor First Name 458**] recs tonight, ordered [**Last Name (un) **]-duodenal tube to be placed
   in am. Also suggested ?IP consult to drain pleural effusion but our
   attg did not think this was neccessary Tues afternoon.
   - TTE showed new EF of 30% and anteroseptal hypokinesis with focal
   apical akinesis is now present. Cycled CE in afternoon- neg
   - Holding off on [**Female First Name (un) **] for now as pleural effusion looks chronic and
   unchanged from prior
   - Gave 250cc NS bolus x1
   - Confirmed with pt and wife- full code
   - changed all meds to IV
   - Cx NGTD
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2120-12-24**] 09:00 PM
   Metronidazole - [**2120-12-25**] 12:40 AM
   Levofloxacin - [**2120-12-25**] 02:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2120-12-24**] 07:57 AM
   Metoprolol - [**2120-12-25**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-25**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-25**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.9
C (96.7
   HR: 81 (78 - 128) bpm
   BP: 123/76(88) {116/60(74) - 142/82(107)} mmHg
   RR: 21 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,257 mL
                                                                    936 mL
   PO:
             TF:
   IVF:
                                                                  2,530 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  2,364 mL
                                                                     85 mL
   Urine:
                                                                  1,564 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.50/41/112/30/8
   Physical Examination
   GEN:cachetic, ashen, frail, cooperative, alert
   chest: b/l ae, poor effort, decreased breath sounds RML/RLL, also LLL.
   No w/c
   heart:s1s2 rrr 2/6 systolic flow murmur, no r/g
   abd:cachetic, +bs, soft, NT, ND, well healed surgical scars.
   ext: thin, no c/c/e 2+pulses, warm
   Labs / Radiology
   186 K/uL
   10.5 g/dL
   135 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   31.6 %
   4.7 K/uL
        [image002.jpg]
                            [**2120-12-24**]  07:02 AM
                            [**2120-12-24**]  07:39 AM
                            [**2120-12-24**]  04:51 PM
                            [**2120-12-25**]  04:07 AM
   WBC
   8.9
   4.7
   Hct
   41.0
   31.6
   Plt
   262
   186
   Cr
   0.7
   0.7
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   33
   Glucose
   128
   111
   135
   Other labs: PT / PTT / INR:14.5/30.6/1.3, CK / CKMB /
   Troponin-T:24/3/<0.01, ALT / AST:40/29, Alk Phos / T Bili:143/0.8,
   Amylase / Lipase:55/, Differential-Neuts:87.5 %, Lymph:7.1 %, Mono:4.9
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:3.7 g/dL, LDH:133 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O MALNUTRITION
 PLEURAL EFFUSION, ACUTE
   65 y.o male with h.o esophageal ca s/p surgerical
   intervention/chemo/radiation, HTN, HL who presents with SOB, fever,
   orthopnea.
   .
   #SOB/fever: Likely [**3-2**] to PNA (pt with reported fever, CTA large
   consolidation RLL, large effusions, but normal WBC count) however, it
   appears that effusions are chronic. Pulmonary edema [**3-2**] CHF as pt had
   elevated BNP and new depressed EF on Echo. PE also a possibility given
   malignancy history, however pt with CTA at OSH.
   -bcx, urine cx, sputum cx
   -abx for now-IV vanco/levo/flag
   -trend fever curve/wbc count.
   - Gentle fluids only if needed.
   .
   # Anemia: Patient with Hct drop of 10 points O/N.  Guiac negative brown
   stool on rectal
   - trend Hct
   - transfuse for <25 or active bleed
   .
   #s/p esophageal ca, s/p surgical intervention, chemo, radiation.  C/B
   extensive weight loss. ? recurrence with elevated CEA of 91 and soft
   tissue mass on Chest CT.
   - Dr. [**Last Name (STitle) **] notified and will see today
   - IR to place [**Last Name (un) 327**]-duodenal tube today
   - f/u CT surgery recs (? significance of CEA)
   - lexapro for appetite.
   - pain control prn
   .
   #Cardiology-HTN, s/p MI. See echo results above. Continue Asa,
   metoprolol per outpt regimen.
   .
   #HL-continue statin.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2120-12-25**] 02:40 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-24**] 03:52 AM
   22 Gauge - [**2120-12-25**] 02:30 AM
   Prophylaxis:
   DVT: Heparin SQ, Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2120-12-25 11:43:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    Overnight, respiratory status improved somewhat and no new complaints.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2120-12-24**] 10:36 AM
 BLOOD CULTURED - At [**2120-12-24**] 05:03 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-25**] 02:40 AM
   Metronidazole - [**2120-12-25**] 07:29 AM
   Vancomycin - [**2120-12-25**] 08:39 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-12-25**] 12:00 AM
   Pantoprazole (Protonix) - [**2120-12-25**] 07:44 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-25**] 07:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-25**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 85 (79 - 88) bpm
   BP: 116/73(82) {116/68(78) - 142/82(95)} mmHg
   RR: 23 (18 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,257 mL
                                                                  1,877 mL
   PO:
             TF:
   IVF:
                                                                  2,530 mL
                                                                  1,486 mL
   Blood products:
   Total out:
                                                                  2,364 mL
                                                                    229 mL
   Urine:
                                                                  1,564 mL
                                                                    229 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    893 mL
                                                                  1,648 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Gen: Awake, alert, cachetic
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Extrem: muscle wasting, warm
   Labs / Radiology
   10.6 g/dL
   178 K/uL
   135 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.5 mEq/L
   19 mg/dL
   106 mEq/L
   143 mEq/L
   31.2 %
   5.2 K/uL
        [image002.jpg]
                            [**2120-12-24**]  07:02 AM
                            [**2120-12-24**]  07:39 AM
                            [**2120-12-24**]  04:51 PM
                            [**2120-12-25**]  04:07 AM
                            [**2120-12-25**]  07:15 AM
   WBC
   8.9
   4.7
   5.2
   Hct
   41.0
   31.6
   31.2
   Plt
   [**Telephone/Fax (3) 6705**]
   Cr
   0.7
   0.7
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   33
   Glucose
   128
   111
   135
   Other labs: PT / PTT / INR:14.5/30.6/1.3, CK / CKMB /
   Troponin-T:24/3/<0.01, ALT / AST:40/29, Alk Phos / T Bili:143/0.8,
   Amylase / Lipase:55/, Differential-Neuts:87.5 %, Lymph:7.1 %, Mono:4.9
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:3.7 g/dL, LDH:133 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 .H/O MALNUTRITION
 PLEURAL EFFUSION, ACUTE
   A:
   1) Pneumonia - likely aspiration
   - Continue antibiotics (Vanco/levo/flagyl)
   - reviewed CT scan and right lower air space disease with some fluid in
   between.  The majority of space is occupied by air-space disease and
   minimal fluid thus likely precluding safe (or need for) drainage.
   Surgery wished to discuss with IP and will do so today.
    - will still need close monitoring in ICU as still in mild respiratory
   distress though improved from yesterday and likely will continue to
   improve with antibiotics and NPO status
   2) Esophagectomy: surgery reviewed CT scan and case and relate that
   there is no concern for esophageal fistula
   3) Anemia
   - repeat hct and follow serial hcts
   - rectal examination
   4) Nutritional deficiency
   - will begin tube feeding
   5) Depressed
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2120-12-25**] 02:40 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-24**] 03:52 AM
   22 Gauge - [**2120-12-25**] 02:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 35

2120-12-26 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2120-12-25**] 12:07 PM
 IR guided NGT placed and TF started
   - IP to see today ([**12-26**]) per thoracics recs for possible thoracentesis
   - Rectal exam guiac neg, Hct stable in PM
   - Given 500cc bolus in early AM for Low UOP
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2120-12-25**] 11:37 PM
   Levofloxacin - [**2120-12-26**] 01:15 AM
   Vancomycin - [**2120-12-26**] 07:22 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-12-25**] 11:38 PM
   Metoprolol - [**2120-12-26**] 07:05 AM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt denies pain, shortness of breath, chest pain.
   Feels
   Flowsheet Data as of  [**2120-12-26**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.2
C (97.1
   HR: 78 (74 - 87) bpm
   BP: 111/66(78) {111/64(75) - 147/91(100)} mmHg
   RR: 18 (16 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,260 mL
                                                                  1,118 mL
   PO:
             TF:
                                                                    110 mL
                                                                    140 mL
   IVF:
                                                                  2,150 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                    629 mL
                                                                    165 mL
   Urine:
                                                                    629 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,631 mL
                                                                    953 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 5L
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   GEN:  cachetic, NAD
   HEENT: MM dry, PERRL
   CV: mildy tachy (~110), s1/s2, no murmurs apprecated
   PULM: Diminished air movement bilaterally, no wheezes, rhonci, rales
   appreciated
   ABD: +BS, soft, NT, scaphoid,
   EXT: 2+ distal pulses, no edema
   NEURO: alert, oriented
   Labs / Radiology
   180 K/uL
   10.2 g/dL
   133 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   22 mg/dL
   106 mEq/L
   139 mEq/L
   30.5 %
   4.4 K/uL
                            [**2120-12-24**]  07:02 AM
                            [**2120-12-24**]  07:39 AM
                            [**2120-12-24**]  04:51 PM
                            [**2120-12-25**]  04:07 AM
                            [**2120-12-25**]  07:15 AM
                            [**2120-12-25**]  02:28 PM
                            [**2120-12-26**]  03:53 AM
   WBC
   8.9
   4.7
   5.2
   4.4
   Hct
   41.0
   31.6
   31.2
   30.5
   30.5
   Plt
   [**Telephone/Fax (3) 6729**]80
   Cr
   0.7
   0.7
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   33
   Glucose
   128
   111
   135
   133
   Other labs: PT / PTT / INR:14.5/30.6/1.3, CK / CKMB /
   Troponin-T:24/3/<0.01, ALT / AST:40/29, Alk Phos / T Bili:143/0.8,
   Amylase / Lipase:55/, Differential-Neuts:87.5 %, Lymph:7.1 %, Mono:4.9
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:3.7 g/dL, LDH:133 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Microbiology: [**12-24**] urine cultures negative
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 PNEUMONIA, ASPIRATION
 .H/O MALNUTRITION
 PLEURAL EFFUSION, ACUTE
   65 y.o male with h.o esophageal ca s/p surgerical
   intervention/chemo/radiation, HTN, HL who presents with SOB, fever,
   orthopnea, now HD#2
   .
   #SOB/fever: Likely [**3-2**] to PNA (pt with reported fever, CTA large
   consolidation RLL, large effusions, but normal WBC count) however, it
   appears that effusions are chronic. Pulmonary edema [**3-2**] CHF as pt had
   elevated BNP and new depressed EF on Echo. PE also a possibility given
   malignancy history, however pt with CTA at OSH.
   -bcx, urine cx, sputum cx
   -abx for now-IV vanco/levo/flag
   -trend fever curve/wbc count.
   - Gentle fluids only if needed.
   .
   # Anemia: Patient with Hct drop of 10 points O/N.  Guiac negative brown
   stool on rectal
   - trend Hct
   - transfuse for <25 or active bleed
   .
   #s/p esophageal ca, s/p surgical intervention, chemo, radiation.  C/B
   extensive weight loss. ? recurrence with elevated CEA of 91 and soft
   tissue mass on Chest CT.
   - Dr. [**Last Name (STitle) **] notified and will see today
   - IR to place [**Last Name (un) 327**]-duodenal tube today
   - f/u CT surgery recs (? significance of CEA)
   - lexapro for appetite.
   - pain control prn
   .
   #Cardiology-HTN, s/p MI. See echo results above. Continue Asa,
   metoprolol per outpt regimen.
   .
   #HL-continue statin.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2120-12-24**] 03:52 AM
   22 Gauge - [**2120-12-25**] 02:30 AM
   PICC Line - [**2120-12-25**] 12:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-12-26 12:29:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   history reviewed, hx of esophagectomy for esoph ca
   [**36**] Hour Events:
   PICC line placed
   Afebrile, no events overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2120-12-26**] 01:15 AM
   Vancomycin - [**2120-12-26**] 07:22 AM
   Metronidazole - [**2120-12-26**] 08:34 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2120-12-26**] 07:05 AM
   Pantoprazole (Protonix) - [**2120-12-26**] 08:33 AM
   Heparin Sodium (Prophylaxis) - [**2120-12-26**] 08:33 AM
   Other medications:
   SCH, lipitor, lexapro, ppi, metopralol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-12-26**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.6
   HR: 83 (74 - 87) bpm
   BP: 125/72(85) {111/64(75) - 147/91(100)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,260 mL
                                                                  1,645 mL
   PO:
             TF:
                                                                    110 mL
                                                                    366 mL
   IVF:
                                                                  2,150 mL
                                                                    999 mL
   Blood products:
   Total out:
                                                                    629 mL
                                                                    325 mL
   Urine:
                                                                    629 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,631 mL
                                                                  1,320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: cachectic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Diminished:
   bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   180 K/uL
   133 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   22 mg/dL
   106 mEq/L
   139 mEq/L
   30.5 %
   4.4 K/uL
        [image002.jpg]
                            [**2120-12-24**]  07:02 AM
                            [**2120-12-24**]  07:39 AM
                            [**2120-12-24**]  04:51 PM
                            [**2120-12-25**]  04:07 AM
                            [**2120-12-25**]  07:15 AM
                            [**2120-12-25**]  02:28 PM
                            [**2120-12-26**]  03:53 AM
   WBC
   8.9
   4.7
   5.2
   4.4
   Hct
   41.0
   31.6
   31.2
   30.5
   30.5
   Plt
   [**Telephone/Fax (3) 6729**]80
   Cr
   0.7
   0.7
   0.5
   0.5
   TropT
   <0.01
   <0.01
   TCO2
   33
   Glucose
   128
   111
   135
   133
   Other labs: PT / PTT / INR:14.5/30.6/1.3, CK / CKMB /
   Troponin-T:24/3/<0.01, ALT / AST:40/29, Alk Phos / T Bili:143/0.8,
   Amylase / Lipase:55/, Differential-Neuts:87.5 %, Lymph:7.1 %, Mono:4.9
   %, Eos:0.1 %, Lactic Acid:1.4 mmol/L, Albumin:3.7 g/dL, LDH:133 IU/L,
   Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 .H/O CANCER (MALIGNANT NEOPLASM), ESOPHAGEAL
 PNEUMONIA, ASPIRATION
 .H/O MALNUTRITION
 PLEURAL EFFUSION, ACUTE
   1) acute respiratory distress with hypoxemia
   - continue O2, keep sats>92%
   - continue with levoflox/flagyl but d/c vanc. treating probable
   aspiration, unclear if acute or chronic
   - question of RLL atelectasis with small adjacent effusion
   - give incentive spirometer
   2) anorexia/weight loss - question of chronic infection vs esoph ca
   recurrence
   3) anemia - likely anemia of chronic disease, guaiac negative stools
   4) chonic left effusion, small left effusion
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2120-12-26**] 10:03 AM 45 mL/hour
   Glycemic Control:
   20 Gauge - [**2120-12-24**] 03:52 AM
   22 Gauge - [**2120-12-25**] 02:30 AM
   PICC Line - [**2120-12-25**] 12:07 PM
   Comments: mobilize, out of bed today
   Prophylaxis: DVT: Boots
   Communication: ICU consent signed Comments:
   Code status: Full code, Disposition :Transfer to floor
   Total time spent: 36 minutes, Patient is critically ill